US07494999B2
4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (853 mg, 2.45 mmol) was stirred in a mixture of trifluoroacetic acid/dichloromethane (5 mL, 25% v/v) for 20 min at room temperature. The reaction mixture was combined with 25 mL of CH2Cl2 and was washed with sat'd NaHCO3 (2×10 mL) and brine. The resulting CH2Cl2 layer was dried over anhydrous Na2SO4 and was concentrated to yield crude amine. The product was further purified by silica gel chromatography (gradient eluent 0-10% MeOH in dichloromethane) to provide 4-(3-fluoro-4-trifluoromethyl-phenyl)-piperazine (473 mg, 78%). The product was used directly in step 3.

reactant | 4-(3-Fluoro-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 2.45 mmol, 853 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C=C1)C(F)(F)F)F | C16H20F4N2O2
reactant | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid dichloromethane | FC(C(=O)O)(F)F.ClCCl
product | 4-(3-fluoro-4-trifluoromethyl-phenyl)-piperazine | 473 mg, 78% | FC=1C=C(C=CC1C(F)(F)F)N1CCNCC1 | C11H12F4N2
